US04086423
2,2,2-Trichloroethyl chloroformate (23,30 g, 0.11 mole) and 4N NaOH (30 ml, 0.12 mole) are added alternately in about 5 equal portions over a period of 30 minutes to an ice-cold, vigorously stirring solution of glycine (7.51 g, 0.1 mole) in 4N NaOH (25 ml). Upon completion of the reaction, the solution is extracted with ether, and the aqueous portion is slurried with EtOAc and acidified in the cold to pH 2.5 with 6N HCl. The EtOAc solution is separated, washed with H2O, dried over MgSO4, filtered, and evaporated in vacuo to give N-(2,2,2-trichloroethyloxycarbonyl)-glycine.

reactant | 2,2,2-Trichloroethyl chloroformate | 0.11 mole, 23,30 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | glycine | 0.1 mole, 7.51 g | NCC(=O)O | C2H5NO2
solvent | NaOH | 4N, 25 ml | [OH-].[Na+]
solvent | NaOH | 0.12 mole, 4N, 30 ml | [OH-].[Na+]
product | N-(2,2,2-trichloroethyloxycarbonyl)-glycine | ClC(COC(=O)NCC(=O)O)(Cl)Cl | C5H6Cl3NO4
